US05246951
BIS(2-AMINO-5-BENZOYLPHENYL) DISELENIDE
1.5 g (0.005 mol) of 6-benzoylbenzoselenazolinone are introduced together with 20 cm3 of 10% sodium hydroxide into a ground-necked flask. The mixture is heated to reflux with stirring for two hours. After cooling, the reaction medium is neutralized. The precipitate is drained, washed with water and dried and the product is recrystallized in toluene.

reactant | 6-benzoylbenzoselenazolinone | 0.005 mol, 1.5 g | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=C[Se]2=O)C=C1 | C14H9NO2Se
solvent | sodium hydroxide | 20 cm3 | [OH-].[Na+]
product | BIS(2-AMINO-5-BENZOYLPHENYL) DISELENIDE | NC1=C(C=C(C=C1)C(C1=CC=CC=C1)=O)[Se][Se]C1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)N | C26H20N2O2Se2
